US08466283B2
Preparation of 2-amino-N-[7-methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]-1,3-thiazole-5-carboxamide
7-Methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine (250 mg, 0.70 mol) was dissolved in DMF (4 mL), and 2-amino-1,3-thiazole-5-carboxylic acid (110 mg, 0.76 mmol) was added. PYBOP (543 mg, 1.04 mmol) and diisopropylethylamine (0.61 mL, 3.50 mmol) were subsequently added, and the mixture was stirred at room temperature overnight. The desired product was isolated via HPLC to give the title compound (80.0 mg, 24%): HPLC MS RT=1.03 min, MH+=486.3; 1H NMR (MeOH-d4+2 drops TFA-d) δ: 7.90 (1H, d), 7.79 (1H, d), 7.50-7.60 (2H, m), 3.70 (2H, m), 3.30 (2H, d), 3.20 (2H, q), 2.10 (2H, s), 1.35 (10H, m).

reactant | 7-Methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-amine | 0.70 mol, 250 mg | COC1=C(C=CC=2C=3N(C(=NC12)N)CCN3)OCCCN3CCOCC3 | C18H25N5O3
reactant | 2-amino-1,3-thiazole-5-carboxylic acid | 0.76 mmol, 110 mg | NC=1SC(=CN1)C(=O)O | C4H4N2O2S
reactant | PYBOP | 1.04 mmol, 543 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 3.50 mmol, 0.61 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-amino-N-[7-methoxy-8-(3-morpholin-4-ylpropoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]-1,3-thiazole-5-carboxamide | NC=1SC(=CN1)C(=O)NC1=NC=2C(=C(C=CC2C=2N1CCN2)OCCCN2CCOCC2)OC | C22H27N7O4S
